US07495103B2
(3-Nitro-phenyl)-hydrazine hydrochloride salt (B-4-a) (30.2 g, 0.16 mol) and 2-oxo-propionic acid ethyl ester (22.3 g, 0.19 mol) was dissolved in ethanol (300 mL). The mixture was stirred at room temperature for 4 h. The solvent was evaporated under reduced pressure to give 2-[(3-nitro-phenyl)-hydrazono]-propionic acid ethyl ester, which was used directly in the next step.

reactant | (3-Nitro-phenyl)-hydrazine hydrochloride salt | 0.16 mol, 30.2 g | Cl.[N+](=O)([O-])C=1C=C(C=CC1)NN
reactant | 2-oxo-propionic acid ethyl ester | 0.19 mol, 22.3 g | C(C)OC(C(C)=O)=O | C5H8O3
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 2-[(3-nitro-phenyl)-hydrazono]-propionic acid ethyl ester | C(C)OC(C(C)=NNC1=CC(=CC=C1)[N+](=O)[O-])=O | C11H13N3O4
